US06599900B2
(5RS)-9-(3,5-bis-trifluoromethyl-benzoyl)-3-(1-methyl-piperidin-4-yl)-5-phenyl-1-oxa-3,9-diaza-spiro[5.5]undecan-2-one
To a solution of 460 mg (1 mmol) [4-(2-amino-1-phenyl-ethyl)-4-hydroxy-piperidin-1-yl]-(3,5-bis-trifluoromethyl-phenyl)-methanone and 113 mg (1 mmol) of 1-methyl-4-piperidone in 1 ml of tetrahydrofurane 0.114 ml (2 mmol) acetic acid and 295 mg (1.4 mmol) sodium triacetoxyborohydride were added. The reaction mixture was shaken over night at room temperature. A solution of saturated sodium hydrogencarbonate was added, and the solution was extracted three times with dichloromethane. The combined organic phases were dried and evaporated under pressure. The residue was dissolved in 9 ml of tetrahydrofurane and 462 mg (2.85 mmol) 1,1′-carbonyl-diimidazole was added. The mixture was stirred under argon at room temperature over night and at 60° C. for three days. After cooling, water (5 ml) was added, and the solution was extracted three times with dichloromethane. The combined organic layers were dried and evaporated. The residue was purified by column chromatography (SiO2, dichloromethane/methanol=90:10) to yield 388 mg (66%) of the title compound.

reactant | [4-(2-amino-1-phenyl-ethyl)-4-hydroxy-piperidin-1-yl]-(3,5-bis-trifluoromethyl-phenyl)-methanone | 1 mmol, 460 mg | NCC(C1=CC=CC=C1)C1(CCN(CC1)C(=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)O | C22H22F6N2O2
reactant | 1-methyl-4-piperidone | 1 mmol, 113 mg | CN1CCC(CC1)=O | C6H11NO
reactant | tetrahydrofurane | 2 mmol, 1 ml | O1CCCC1 | C4H8O
reactant | sodium triacetoxyborohydride | 1.4 mmol, 295 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 1,1′-carbonyl-diimidazole | 2.85 mmol, 462 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | water | 5 ml | O | H2O
product | (5RS)-9-(3,5-bis-trifluoromethyl-benzoyl)-3-(1-methyl-piperidin-4-yl)-5-phenyl-1-oxa-3,9-diaza-spiro[5.5]undecan-2-one | 388 mg, 66% | FC(C=1C=C(C(=O)N2CCC3(C(CN(C(O3)=O)C3CCN(CC3)C)C3=CC=CC=C3)CC2)C=C(C1)C(F)(F)F)(F)F | C29H31F6N3O3
